US04246274
39 g (0.14 mol) of 4-phenylphenacyl bromide are introduced in portions into a solution of 48.2 g (0.7 mol) of imidazole in 140 ml of dimethylformamide, whilst cooling. The mixture is allowed to subsequently react for 15 hours and the solution is poured into water. The crystal mass which has separated out is recrystallised from ethanol. 24 g (65% of theory) of 4-biphenylyl imidazol-1-yl-methyl ketone of melting point 198° C. are obtained.

reactant | 4-phenylphenacyl bromide | 0.14 mol, 39 g | C1(=CC=CC=C1)C1=CC=C(C(CBr)=O)C=C1 | C14H11BrO
reactant | imidazole | 0.7 mol, 48.2 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
product | 4-biphenylyl imidazol-1-yl-methyl ketone | 24 g, 65% | N1(C=NC=C1)CC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H14N2O
